* Z:\mnt\design.r\spice\examples\1115.asc
V1 +V 0 18
V2 -V 0 -18
R1 N005 N004 499
XU1 IN N004 +V -V N002 LT1028
XU2 N003 +V -V N001 OUT LT1010
R2 +V N001 49.9
D1 N002 -V 2N4304
R3 N003 N002 100
R4 N006 N005 17.8K
R5 OUT N006 210K
C1 OUT N006 .015µ
C2 N006 N005 3900p
R6 OUT N007 82.5K
C3 N007 0 2200µ
C4 N007 0 4.7µ
R7 N004 N007 232.6
C5 IN 0 50p
R8 IN 0 47.5K
V3 IN 0 ac 1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.ac oct 100 10 20K
.model 2N4304 D(Ron=500 Ilimit=2m)
* RIAA Phonograph Preamplifier
.lib LTC.lib
.backanno
.end
